US07666888B2
Ethyl (±)-trans-4-(1-benzofuran-2-yl)-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}pyrrolidine-3-carboxylate
To 5-(4-methylphenyl)isoxazole-4-carbonyl chloride (10 mg, 0.045 mmol) in dichloromethane (1 mL) was added ethyl (±)-trans-4-(1-benzofuran-2-yl)pyrrolidine-3-carboxylate (13 mg, 0.050 mmol, 1.1 equ.), and the reaction mixture was stirred for 1 h. The solvent was removed, and the residue was purified by preparative reverse-phase HPLC to give the title compound. HRMS (ESI, pos. ion) m/z calcd for C26H24N2O5: 444.1685, found 444.1693.

reactant | 5-(4-methylphenyl)isoxazole-4-carbonyl chloride | 0.045 mmol, 10 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)Cl | C11H8ClNO2
reactant | ethyl (±)-trans-4-(1-benzofuran-2-yl)pyrrolidine-3-carboxylate | 0.050 mmol, 13 mg | O1C(=CC2=C1C=CC=C2)[C@H]2[C@@H](CNC2)C(=O)OCC | C15H17NO3
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | Ethyl (±)-trans-4-(1-benzofuran-2-yl)-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}pyrrolidine-3-carboxylate | O1C(=CC2=C1C=CC=C2)[C@H]2[C@@H](CN(C2)C(=O)C=2C=NOC2C2=CC=C(C=C2)C)C(=O)OCC | C26H24N2O5
